US08217066B2
Synthesis of N-(1-{4′-[4-((S)-2-Benzylsulfanyl-1-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide (Compound 77)
Prepared according to the procedure described in Example 2, using (S)-2-benzylsulfanyl-1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-ethanol and N-{1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonyl}-methanesulfonamide.

reactant | (S)-2-benzylsulfanyl-1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-ethanol | C(C1=CC=CC=C1)SC[C@@H](O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C19H18BrNO2S
reactant | N-{1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonyl}-methanesulfonamide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C | C17H24BNO5S
product | N-(1-{4′-[4-((S)-2-Benzylsulfanyl-1-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide | C(C1=CC=CC=C1)SC[C@@H](O)C=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C | C30H30N2O5S2
